US04195150
Elastomeric urethane-urea copolymers were prepared by reacting 200 g of an isocyanate-terminated prepolymer with 35 g of 1,2-bis (2-aminophenylthio)ethane. The prepolymer had been previously prepared by reacting 2 moles of a commercially available mixture of isomeric tolylene diisocyanates for every mole of polytetramethylene glycol. The resultant product contained approximately 6.3% by weight of unreacted isocyanate groups. Prior to being combined with the diamine the prepolymer was degassed by heating it to 85° C. while maintaining the prepolymer under reduced pressure for several minutes. The diamine (85% of the stoichiometric amount) together with the catalyst was heated to 85° C., at which time it was added to the degassed prepolymer. The time at which these reagents was combined was used as the zero reference point. The resultant mixture was stirred for 40 seconds and then degassed for 1.3 minutes at 85° C. under reduced pressure, after which it was poured into a number of circular mold cavities measuring 1 inch (2.5 cm) in diameter and 3/8 inch (0.95 cm) in height. The mold had been preheated to a temperature of 85° C. The mold was then placed on the lower platen of a hydraulic press that was maintained at 85° C. The surface of the liquid was periodically probed with a metal spatula until it had solidified to the extent that the spatula would not penetrate the surface using moderate pressure. A cover was then placed on the mold and it was subjected to a pressure of 35,000 pounds (15,900 kg) using a 5 inch (12.7 cm) diameter ram. The small amount of polymer which overflowed when the press was closed was tested periodically with a spatula. When the polymer was no longer "tacky", i.e. it did not stick to the spatula, the press was opened and one of the samples was removed. If the sample could be distorted under pressure the press was closed on the mold and samples were removed periodically until the sample under test could not be distorted. The interval between combining of the reagents and removal of the distortion-free samples from the mold is referred to as the demold time in the following table, which contains the demold times obtained using (a) an uncatalyzed mixture of prepolymer and chain extender (b) a mixture of prepolymer, chain extender and 0.05% tetrabutylammonium hydroxide and (c) a mixture of prepolymer, chain extender and 0.025% of a tetrahydroxyalkylammonium hydroxide available as TMR from Air Products and Chemicals, Inc., which was added as a 50% by weight solution in diethylene glycol. The three samples are referred to as a, b and c in the table.

reactant | isocyanate | 200 g | [N-]=C=O
reactant | polytetramethylene glycol | CCCCO[C@@H](CC)CO | C8H18O2
reactant | tetrabutylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | urethane urea | NC(=O)OCC.NC(=O)N | InChI=1S/C3H7NO2.CH4N2O/c1-2-6-3(4)5;2-1(3)4/h2H2,1H3,(H2,4,5);(H4,2,3,4)
